US07517889B2
Argon is bubbled through a mixture of (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine [330 mg, 0.99 mmol], 3-(1-carboxy-cyclopentyl)-phenylboronic acid [580 mg, 2.48 mmol] and Cs2CO3 (808 mg, 2.48 mmol) in ethylene glycol dimethyl ether (4 mL) and water (1 mL), for a period of 5 minutes. To this mixture is added tetrakis(triphenylphosphine)palladium (0) (116 mg, 0.1 mmol) and the reaction vessel is sealed and heated to 90° C. After stirring for 8 hours the mixture is diluted with water (30 mL) acidified to pH 1 with concentrated HCl and extracted thrice with EtOAc (30 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford 1-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-cyclopentanecarboxylic acid as a solid that is treated with HCl in ethyl acetate. The material is then dissolved in acetone (5 mL) and heptane (15 mL) is added and allowed to stand at ambient temperature for 16 hours. The solvent is decanted from the crystals and dried under high vacuum to provide 1-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-cyclopentanecarboxylic acid hydrochloride [48 mg, 9%, Example 74] as a solid. LCMS RT=2.54 minutes, MS: 486 (M+H). IC50=0.5 nM

reactant | (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 0.99 mmol, 330 mg | ClC1=CC(=NC(=N1)OC)NCCC1=C(C=C(C=C1)Cl)Cl | C13H12Cl3N3O
reactant | 3-(1-carboxy-cyclopentyl)-phenylboronic acid | 2.48 mmol, 580 mg | C(=O)(O)C1(CCCC1)C=1C=C(C=CC1)B(O)O | C12H15BO4
reactant | Cs2CO3 | 2.48 mmol, 808 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | Cl | ClH
solvent | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | water | 30 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-cyclopentanecarboxylic acid | ClC1=C(C=CC(=C1)Cl)CCNC1=CC(=NC(=N1)OC)C=1C=C(C=CC1)C1(CCCC1)C(=O)O | C25H25Cl2N3O3
